US08541404B2
6-Bromo-8-fluoro-3,4,4a,8a-tetrahydro-1H-quinolin-2-one
This intermediate was obtained according to general procedure I from 8-fluoro-3,4,4a,8a-tetrahydro-1H-quinolin-2-one (515 mg, 3.12 mmol) and NBS (583 mg, 3.27 mmol) after flash chromatography on silica gel (hexanes/ethyl acetate, 5/1, Rf=0.32) as white solid (647 mg, 2.65 mmol, 85%).

reactant | 8-fluoro-3,4,4a,8a-tetrahydro-1H-quinolin-2-one | 3.12 mmol, 515 mg | FC1=CC=CC2CCC(NC12)=O | C9H10FNO
reactant | NBS | 3.27 mmol, 583 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | 6-Bromo-8-fluoro-3,4,4a,8a-tetrahydro-1H-quinolin-2-one | BrC1=CC2CCC(NC2C(=C1)F)=O | C9H9BrFNO
